US08372842B2
4N HCl in dioxane (2 mL) was added to a solution of (S)-tert-butyl 2-((S)-2-(4-(5-chloro-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-1-(4-chlorophenyl)-2-oxoethyl)pyrrolidine-1-carboxylate (90 mg, 0.16 mmol) in CH2Cl2 (1 ml). The mixture was stirred at room temperature for 30 minutes. After 30 minutes, the solvent was removed in vacuo, and the resulting residue was triturated with ether. The solid material was filtered, washed with additional ether (2×2 mL) and dried to provide (S)-1-(4-(5-chloro-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-2-(4-chlorophenyl)-2-((S)-pyrrolidin-2-yl)ethanone dihydrochloride (71 mg, 0.13 mmol, 83% yield) as a cream solid. LCMS (APCI+) m/z 459.1, 461.1 [(M+H]+. NMR (400 Hz, DMSO-d6) δ 9.61 (br s, 1H), 9.08 (br s, 1H), 8.30 (s, 1H), 8.19 (s, 1H), 7.49 (d, 2H), 7.44 (d, 2H), 4.53 (d, 1H), 4.03-3.96 (m, 1H), 3.79-3.70 (m, 3H), 3.69-3.57 (m, 3H), 3.51-3.45 (m, 1H), 3.21-3.14 (m, 2H), 3.09-3.00 (m, 1H), 1.97-1.89 (m, 1H), 1.78-1.71 (m, 1H), 1.63-1.52 (m, 2H).

reactant | HCl | 4N | Cl | ClH
reactant | (S)-tert-butyl 2-((S)-2-(4-(5-chloro-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-1-(4-chlorophenyl)-2-oxoethyl)pyrrolidine-1-carboxylate | 0.16 mmol, 90 mg | ClC=1C(=C2C(=NC1)NN=C2)N2CCN(CC2)C([C@@H](C2=CC=C(C=C2)Cl)[C@H]2N(CCC2)C(=O)OC(C)(C)C)=O | C27H32Cl2N6O3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-(4-(5-chloro-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-2-(4-chlorophenyl)-2-((S)-pyrrolidin-2-yl)ethanone dihydrochloride | 0.13 mmol, 71 mg, 83% yield | Cl.Cl.ClC=1C(=C2C(=NC1)NN=C2)N2CCN(CC2)C([C@H]([C@H]2NCCC2)C2=CC=C(C=C2)Cl)=O | InChI=1S/C22H24Cl2N6O.2ClH/c23-15-5-3-14(4-6-15)19(18-2-1-7-25-18)22(31)30-10-8-29(9-11-30)20-16-12-27-28-21(16)26-13-17(20)24;;/h3-6,12-13,18-19,25H,1-2,7-11H2,(H,26,27,28);2*1H/t18-,19-;;/m0../s1
